US08530133B2
Under a nitrogen atmosphere, 4-Bromo-2-methylphenol (4.69 g, 25.1 mmol), (tris-o-tolylphosphine)2PdCl2 (0.377 g; 0.480 mmol), and 4,4′-(bicyclo[2.2.1]hept-5-en-2-ylmethylene)bis(2-methylphenol) (5.14 g; 16.0 mmol) were charged to an appropriately sized and equipped reaction vessel. DMF (80 mL) was added to this reactant mixture to give a suspension. Triethylamine (11.0 mL, 78.9 mmol) and formic acid (2.30 mL, 60.9 mmol) were added to this suspension and then heated to 75° C. in an oil bath. The reaction mixture turned from its original orange suspension to pale yellow and became clear. During, the course of the reaction, the temperature of the reaction mixture rose to 82° C. and turned darker, and a gas evolved very slowly. After the initial exothermic reaction ceased, the reaction mixture was stirred overnight at 75° C. After this time, the reaction mixture was a clear, pale yellow solution with black particles. The cooled reaction mixture was diluted with ethyl acetate (80 mL) and washed with water (160 mL) to remove DMF. The organic layer was dried over anhydrous MgSO4. The crude mixture was purified by preparative TLC using a hexanes/ethyl acetate mixture (50:50) as developer to afford 3.7 g of 4,4′-((5-(4-hydroxy-3-methylphenyl)bicyclo[2.2.1]heptan-2-yl)methylene)-bis(2-methylphenol) (54% yield). The identity of the product as PP429 was confirmed by LC-MS (ESI) and proton NMR.

reactant | 4-Bromo-2-methylphenol | 25.1 mmol, 4.69 g | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | 4,4′-(bicyclo[2.2.1]hept-5-en-2-ylmethylene)bis(2-methylphenol) | 16.0 mmol, 5.14 g | C12C(CC(C=C1)C2)C(C2=CC(=C(C=C2)O)C)C2=CC(=C(C=C2)O)C | C22H24O2
reactant | Triethylamine | 78.9 mmol, 11.0 mL | C(C)N(CC)CC | C6H15N
reactant | formic acid | 60.9 mmol, 2.30 mL | C(=O)O | CH2O2
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 4,4′-((5-(4-hydroxy-3-methylphenyl)bicyclo[2.2.1]heptan-2-yl)methylene)-bis(2-methylphenol) | 3.7 g, 54% yield | OC1=C(C=C(C=C1)C1C2CC(C(C1)C2)C(C2=CC(=C(C=C2)O)C)C2=CC(=C(C=C2)O)C)C | C29H32O3
